US04797417
A mixture of ethyl 3-(5-oxo-4-pentyloxy-3-phenyl-2,5-dihydro-2-furyl)propionate (3 g) and 3N hydrochloric acid (28 ml) in acetic acid (28 ml) was heated at 100° C. for 2 hours with stirring. After cooling the mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and brine successively and dried. Evaporation of the solvent gave a residue which was recrystallized from a mixture of n-hexane and ethyl acetate to give 3-(5-oxo-4-pentyloxy-3-phenyl2,5-dihydro-2-furyl)propionic acid (2.20 g).

reactant | ethyl 3-(5-oxo-4-pentyloxy-3-phenyl-2,5-dihydro-2-furyl)propionate | 3 g | O=C1C(=C(C(O1)CCC(=O)OCC)C1=CC=CC=C1)OCCCCC | C20H26O5
reactant | hydrochloric acid | 3N, 28 ml | Cl | ClH
reactant | water | O | H2O
solvent | acetic acid | 28 ml | C(C)(=O)O | C2H4O2
product | 3-(5-oxo-4-pentyloxy-3-phenyl2,5-dihydro-2-furyl)propionic acid | 2.20 g | O=C1C(=C(C(O1)CCC(=O)O)C1=CC=CC=C1)OCCCCC | C18H22O5
